US06060508
0.8 g (2.7 mmol) of 2,3-dimethyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran, 2.67 ml (19.2 mmol) of triethylamine and 50 ml of dichloromethane are placed in a 100 ml round-bottomed flask. The solution is cooled to -30° C. using a dry ice bath and 99 ml (12.8 mmol) of mesyl chloride are added dropwise. The temperature is allowed to return to 0° C. and the solution is concentrated under vacuum. 20 ml of diethylamine are added to the residue and the solution obtained is heated at reflux for 16 hours. The reaction mixture is cooled to room temperature and concentrated under vacuum, 50 ml of water are added and extraction is carried out with ethyl acetate. The organic phases are combined, dried over magnesium sulphate and concentrated under vacuum. The residue is purified by chromatography on a silica column (elution solvent: 10% methanol in dichloroethane). 0.434 g (Yield: 55%) of 2,3-dimethyl-7-[1,2-di(diethylamino)ethyl]benzofuran is obtained in the form of an oil.

reactant | 2,3-dimethyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran | 2.7 mmol, 0.8 g | CC=1OC2=C(C1C)C=CC=C2C(CO)N(CC)CC | C16H23NO2
reactant | triethylamine | 19.2 mmol, 2.67 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 12.8 mmol, 99 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,3-dimethyl-7-[1,2-di(diethylamino)ethyl]benzofuran | 0.434 g, Yield: 55% | CC=1OC2=C(C1C)C=CC=C2C(CN(CC)CC)N(CC)CC | C20H32N2O
